US06025495
2-(4-Hydroxyphenyl)-3-(4-Methoxybenzoyl)-6-Hydroxybenzo[b]thiophene
A 100 mL, 3 neck, round bottom flask fitted with a mechanical agitator, glass stopper, and outlet to a caustic scrubber is charged with p-anisoyl chloride (3.47 g, 20.34 mmol), 2-(4-methoxyphenyl)-3-(4-methoxybenzoyl)-6-methoxybenzo[b]thiophene (5.0 g, 18.49 mmol) and 30 mL 1,2-dichloroethane. The mixture is cooled to 0-5° C. and previously condensed boron trichloride (4.7 mL, 55.0 mmol) is added in one portion. The mixture is stirred at 0-50° C. for 7.5 hours then more boron trichloride (4.7 mL, 55.0 mmol) is added. The cooling bath is removed and the reaction mixture is stirred at ambient temperature for 16 hours. After the overnight stir, the mixture is poured into 500 mL of agitated ice/water which caused precipitation of the monomethoxy product. The reaction vessel is rinsed in with 1,2-dichloroethane and the slurry is stirred for 1 hour. Then, 200 mL of methylene chloride is added and the mixture is vacuum filtered washing with methylene chloride. The solid is dried overnight in a vacuum oven at 40° C. to afford 6.3 g (82.4%) of monomethoxy product as a yellow solid. An analytical sample is obtained by chromatography on silica gel (20:1 methylene chloride/methanol). mp 127-128° C. (dec); 1H NMR (300.1 MHz, DMSO-d6) δ 3.76 (s, 3H), 6.66 (d, 2H), 6.85 (dd, 1H), 6.87 (d, 2H), 7.16 (d, 2H), 7.25 (d, 1H), 7.33 (s, 1H), 7.66 (d, 2H), 9.76 (br s, 2H); 13C NMR (75.5 MHz, DMSO-d6) d 55.5, 107.1, 114.0, 115.2, 115.7, 123.3, 123.8, 129.7, 131.8, 132.3, 139.2, 140.4, 155.4, 157.8, 163.5, 192.6; MS (FD+) m/e 376(100), 377(25), 378(7); Analysis calc'd for C22H16O4S: C, 70.20; H, 4.28; S, 8.52; found: C, 70.09; H, 4.27; S, 8.45.

reactant | p-anisoyl chloride | 20.34 mmol, 3.47 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-(4-methoxyphenyl)-3-(4-methoxybenzoyl)-6-methoxybenzo[b]thiophene | 18.49 mmol, 5.0 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(C2=CC=C(C=C2)OC)=O | C24H20O4S
reactant | boron trichloride | 55.0 mmol, 4.7 mL | B(Cl)(Cl)Cl | BCl3
reactant | boron trichloride | 55.0 mmol, 4.7 mL | B(Cl)(Cl)Cl | BCl3
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 2-(4-Hydroxyphenyl)-3-(4-Methoxybenzoyl)-6-Hydroxybenzo[b]thiophene | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)O)C(C2=CC=C(C=C2)OC)=O | C22H16O4S
